US08383629B2
Ethyl 2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate
The title compound was prepared following a procedure analogous to that described in Example 1 using 3-(2-(trifluoromethyl)phenyl)propanoic acid and ethyl 2-(7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate. LC-MS Method 1 tR=2.27, min, m/z=554, 552

reactant | 3-(2-(trifluoromethyl)phenyl)propanoic acid | FC(C1=C(C=CC=C1)CCC(=O)O)(F)F | C10H9F3O2
reactant | ethyl 2-(7-bromo-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | BrC=1C=CC=C2C(CC3(CCNCC3)C12)CC(=O)OCC | C17H22BrNO2
product | Ethyl 2-(7-bromo-1′-(3-(2-(trifluoromethyl)phenyl)propanoyl)-2,3-dihydrospiro[indene-1,4′-piperidine]-3-yl)acetate | BrC=1C=CC=C2C(CC3(CCN(CC3)C(CCC3=C(C=CC=C3)C(F)(F)F)=O)C12)CC(=O)OCC | C27H29BrF3NO3
